US05679683
A solution of 2-amino-5-methoxy-1H-indole-3-carboxylic acid ethyl ester (2.15 g (9.2 mmol), sodium methoxide (0.5 g (9.3 mmol), and formamide (200 mL), is heated under N2 at 220° C. for 1.5 h. The solution is cooled to room temperature, stored for 2.5 days, and filtered. The solvent is evaporated by Kugelrohr distillation at 95° C./0.8 mm. The residual solids are washed with H2O, then heated in 35 mL of boiling N,N-dimethylformamide. The hot suspension is filtered hot over a pad of flash silica gel. The cooled filtrate is concentrated in vacuo to a solid that is sonicated in about 30 mL of MeOH. The solids are filtered, washed with MeOH, and dried to leave 6-methoxy-3H-indolo[2,3-d]pyrimidine-4-one (1.71 g,72%) that is about 83% pure. 1H NMR (DMSO): δ12.16 (1H, br s, exchanges with D2O), 12.04 (1H, br s, exchanges with D2O), 8.08 (1H, d, J=3.4 Hz, exchanges to s with D2O), 7.46 (1H, d, J=1.9 Hz), 7.37 (1H, d, J=8.7 Hz), 6.95 (1H, dd, J=8.8, 2.5 Hz), 3.81 (3 H, s).

reactant | 2-amino-5-methoxy-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC2=CC=C(C=C12)OC)N | C12H14N2O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | formamide | 200 mL | C(=O)N | CH3NO
product | 6-methoxy-3H-indolo[2,3-d]pyrimidine-4-one | 1.71 g, 72% | COC1=CC=2C(C=C1)=NC1=NCNC(C12)=O | C11H9N3O2
